US06531502B1
Triphenylphosphine (6.85 g) was added to a solution of 3-bromo-4-hydroxybenzaldehye (5 g) in tetrahydrofuran (40 ml), followed by addition of 2-hydroxyethylmorpholine (3.01 ml) and then the dropwise addition of diethylazodicarboxylate (4.11 ml). After 12 hours, the reaction was concentrated under reduced pressure, poured into 2N hydrochloric acid (200 ml) and extracted with ethyl acetate (2×150 ml). The aqueous layer was basified to pH 9 with solid sodium bicarbonate and extracted with ethyl acetate (2×150 ml). The organic layers were dried over magnesium sulfate and concentrated to afford 4.4 g (56%) of 4-morpholinoethoxy-3-bromobenzaldehyde as a reddish oil.

reactant | Triphenylphosphine | 6.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromo-4-hydroxybenzaldehye | 5 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | 2-hydroxyethylmorpholine | 3.01 ml | OCCN1CCOCC1 | C6H13NO2
reactant | diethylazodicarboxylate | 4.11 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-morpholinoethoxy-3-bromobenzaldehyde | 4.4 g, 56% | O1CCN(CC1)CCOC1=C(C=C(C=O)C=C1)Br | C13H16BrNO3
